US07968573B2
A mixture of 0.44 g of 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one, 0.05 g of hydrazine monohydrate and 10 ml of tetrahydrofuran was stirred at room temperature for 2 hours. After the reaction mixture was mixed with water and ethyl acetate, layers were separated. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 0.10 g of N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carboxamide of the formula:

reactant | 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.44 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=NC=CC=C2Cl)C(F)(F)F)=O)C1)C | C18H9Cl2F3N4O2
reactant | hydrazine monohydrate | 0.05 g | O.NN
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carboxamide | 0.10 g | ClC1=CC(=C(C(=C1)C)NC(=O)C1=CC(=NN1C1=NC=CC=C1Cl)C(F)(F)F)C(=O)NN | C18H13Cl2F3N6O2
